US06355631B1
N-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(1-isobutylpiperiod-4yl)methylsulfonamide may be prepared by carrying out the procedure in the following manner: 0.11 cm3 of isobutyraldehyde, 0.057 cm3 of 100% acetic acide and 320 mg of sodium triacetoxyborohydride are added to a solution of 0.47 g of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(piperid-4-yl)methylsulfonamide in 20 cm3 of dichloromethane. After stirring for 20 hours at 20° C., the reaction mixture is supplemented with 50 cm3 of a saturated aqueous sodium hydrogen carbonate solution and separated after settling. The organic phase is dried over mangesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on a silica gel column (particle size 0.063-0.200 mm, height 20 cm, diameter 2 cm), eluting under an argon pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (40/60 by volume) and collecting 30-cm3 fractions. Fractions 3 to 15 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 0.22 g of N-{1-[bis(4-chloro-phenyl)methyl]azetidin-3-yl}-N-(1-isobutylpiperid-4 -yl)methylsulfonamide is obtained in the form of a white foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 0.87 (d, J=7 Hz:6H); from 1.60 to 1.90 (mt:5H); 1.93 (broad t, J=11.5 Hz:2H); 2.03 (d, J=7.5 Hz:2H); 2.84 (s, 3H); 2.89 (broad d, J=11.5 Hz:2H); 3,38 (broad t, J=7 Hz:2H); 3.47 (broad t, J=7 Hz:2H); 3.62 (mt:1H); 4.08 (mt:1H); 4.43 (s:1H); from 7.20 to 7.40 (mt:8H)].

reactant | isobutyraldehyde | 0.11 cm3 | C(C(C)C)=O | C4H8O
reactant | acetic | 0.057 cm3 | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sodium triacetoxyborohydride | 320 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(piperid-4-yl)methylsulfonamide | 0.47 g | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)=O)CC1CCNCC1)C1=CC=C(C=C1)Cl | C22H27Cl2N3O2S
reactant | sodium hydrogen carbonate | 50 cm3 | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | N-{1-[bis(4-chloro-phenyl)methyl]azetidin-3-yl}-N-(1-isobutylpiperid-4 -yl)methylsulfonamide | 0.22 g | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)=O)CC1CCN(CC1)CC(C)C)C1=CC=C(C=C1)Cl | C26H35Cl2N3O2S
